US04117129
Methyl-3-[o-aminophenoxy]-indole-2-carboxylate
A mixture of 3.12g of methyl-3-[o-nitrophenoxy]-indole-2-carboxylate, 10g of 40 mesh iron filings, 5ml of 5% aqueous acetic acid and 300ml of ethanol was refluxed with stirring for 3 hours. The mixture was filtered and concentrated to a solid. Recrystallization from ethanol gave analytical material, mp. 183°-4°.

reactant | methyl-3-[o-nitrophenoxy]-indole-2-carboxylate | 3.12g | COC(=O)C=1NC2=CC=CC=C2C1OC1=C(C=CC=C1)[N+](=O)[O-] | C16H12N2O5
reactant | acetic acid | 5ml | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
solvent | ethanol | 300ml | C(C)O | C2H6O
product | Methyl-3-[o-aminophenoxy]-indole-2-carboxylate | COC(=O)C=1NC2=CC=CC=C2C1OC1=C(C=CC=C1)N | C16H14N2O3
